US03962445
a. 4-Hydroxy-1-methyl carbostyril
This was prepared from N-methyl anthranilic acid (22.04g. 0.146 mole) as described in example 30a., m.p. (EtOH) 270°-273°C. (Found; C, 68.59; H, 5.44; N, 7.73; C10H9NO2 requires; C, 58.56; H, 5.18; N, 8.00%).

reactant | N-methyl anthranilic acid | 0.146 mole, 22.04g | CNC=1C(C(=O)O)=CC=CC1 | C8H9NO2
reactant | EtOH | CCO | C2H6O
product | 4-Hydroxy-1-methyl carbostyril | OC1=CC(N(C2=CC=CC=C12)C)=O | C10H9NO2
